US04918074
To 50 ml of ethanol are added 2.6 g of ethyl 3-nitro-α-acetylcinnamate and 0.9 g of 5-aminotetrazole, and then heated under reflux for 16 hours. On cooling, 2 g of 6-ethoxycarbonyl-5-methyl-7-(3-nitrophenyl)-4,7-dihydrotetrazolo[1,5-a]pyrimidine, melting at 210°-212° C., is obtained.

reactant | ethyl 3-nitro-α-acetylcinnamate | 2.6 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCC)C(C)=O)C=CC1 | C13H13NO5
reactant | 5-aminotetrazole | 0.9 g | NC1=NN=NN1 | CH3N5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-5-methyl-7-(3-nitrophenyl)-4,7-dihydrotetrazolo[1,5-a]pyrimidine | 2 g | C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])N=NN2)C | C14H14N6O4
